US06562807B2
(R)-3-{4-[1-(4-Cyclohexylphenyl)-3-(3-hydroxymethyl-4-trifluoromethoxyphenyl)ureidomethyl]-benzoylamino}-2-hydroxypropionic Acid
(R)-3-{4-[3-[3-(tert-Butyldimethylsilanyloxymethyl)-4-trifluoromethoxyphenyl]-1-(4-cyclohexyl-phenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid (17 mg, 0.023 mmol) was dissolved in acetonitrile:water (9:1) (2 mL) and caesium fluoride (35 mg, 0.35 mmol) added. The reaction mixture was stirred at 80° C. for 6 hours and additional amounts of caesium fluoride (35 mg) added. The mixture was stirred at 60° C. overnight, concentrated in vacuo and diluted with ethyl acetate (10 mL) and water (5 mL). The organic phase was washed with water (3×5 mL) and dried with magnesium sulphate and concentrated in vacua. The residue was purified by preparative HPLC affording the title compound.

reactant | (R)-3-{4-[3-[3-(tert-Butyldimethylsilanyloxymethyl)-4-trifluoromethoxyphenyl]-1-(4-cyclohexyl-phenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid | 0.023 mmol, 17 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1OC(F)(F)F)NC(N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)NC[C@H](C(=O)O)O)C=C1)=O | C38H48F3N3O7Si
reactant | caesium fluoride | 0.35 mmol, 35 mg | [F-].[Cs+]
reactant | caesium fluoride | 35 mg | [F-].[Cs+]
reactant | acetonitrile water | 2 mL | C(C)#N.O
product | (R)-3-{4-[1-(4-Cyclohexylphenyl)-3-(3-hydroxymethyl-4-trifluoromethoxyphenyl)ureidomethyl]-benzoylamino}-2-hydroxypropionic Acid | C1(CCCCC1)C1=CC=C(C=C1)C(C1=CC=C(C(=O)NC[C@H](C(=O)O)O)C=C1)NC(=O)NC1=CC(=C(C=C1)OC(F)(F)F)CO | C32H34F3N3O7
